US04025652
A mixture of 27 g. (0.106 mole) of 1-(2,6-dimethylphenyl-N-methylamidino)-3-(t-butyl)urea and 200 ml. of conc. hydrochloric acid is refluxed for 1/2 hour. The reaction mixture is cooled, the precipitated solid filtered and washed with 10 ml. of 1:1 HCl/H2O and dried. The product is then recrystallized from ethanol-ether to obtain 1-(2,6-dimethylphenyl-N-methylamidino)urea.

reactant | 1-(2,6-dimethylphenyl-N-methylamidino)-3-(t-butyl)urea | 0.106 mole | CC1=C(C(=CC=C1)C)N(C(=N)NC(=O)NC(C)(C)C)C | C15H24N4O
reactant | hydrochloric acid | Cl | ClH
product | 1-(2,6-dimethylphenyl-N-methylamidino)urea | CC1=C(C(=CC=C1)C)N(C(=N)NC(=O)N)C | C11H16N4O
